US09302996B2
In trifluoroacetic acid (2.0 mL) and water (0.1 mL) was dissolved 3-[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid (640 mg), and the solution was stirred at room temperature for 10 hours. The solution was neutralized by adding 2N aqueous sodium hydroxide solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated brine, the organic layer was separated and concentrated under reduced pressure. Ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 3-[(5-{3-fluoro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid (432 mg).

reactant | 3-[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid | 640 mg | FC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C27H33F4N3O4Si
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.1 mL | O | H2O
product | 3-[(5-{3-fluoro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid | 432 mg | FC=1C=C(C=CC1C=1NC(=CN1)C(F)(F)F)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C21H19F4N3O3
